US07592373B2
3-(4′-chlorobiphenyl-4-yl)propynoic acid-[4-(2,6-dimethylpiperidin-1-ylmethyl)phenyl]amide
Prepared analogously to Example 3.8. from (4′-chlorobiphenyl-4-yl)propynoic acid and 4-(2,6-dimethylpiperidin-1-ylmethyl)phenylamine. Yield: 100 mg (22% of theory); melting point: 158° C.-163° C.; C29H29ClN2O (M=457.01); calc.: molecular ion peak (M+H)+: 458/460 (Cl); found: molecular ion peak (M+H)+: 458/460 (Cl); Rf value: 0.50 (silica gel, dichloromethane/methanolic ammonia (90:10:0.1)).

reactant | (4′-chlorobiphenyl-4-yl)propynoic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C#CC(=O)O | C15H9ClO2
reactant | 4-(2,6-dimethylpiperidin-1-ylmethyl)phenylamine | CC1N(C(CCC1)C)CC1=CC=C(C=C1)N | C14H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4′-chlorobiphenyl-4-yl)propynoic acid-[4-(2,6-dimethylpiperidin-1-ylmethyl)phenyl]amide | CC1N(C(CCC1)C)CC1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C29H29ClN2O
